US08217027B2
Tert-butyl (1R,3S)-1-(2-(diethoxyphosphoryl)ethyl)-3-(4-octylphenyl)cyclopentylcarbamate (0.2 g, 0.372 mmol) was dissolved in dichloromethane (1.860 ml) in a sealed vial to give a colorless solution. TFA (1.860 ml) was added and the reaction stirred for about 1 h. Solvents were removed under reduced pressure. Methylene chloride (25 mL) and saturated sodium bicarbonate (25 mL) were added and the layers separated and extracted with methylene chloride (2×10 mL). The combined extracts were washed with brine, dried over sodium sulfate, filtered, and evaporated to a yellow oil. The oil was dissolve in ether (15 mL). 1 M HCl in dioxane (3 mL) was added. Solvents were removed under reduced pressure. The solid was redissolved in water and lyophilized. The resulting white/tan solid was suspended in ether and the resulting solid was collected by vacuum filtration and washed with ether then heptane to provide diethyl 2-((1R,3S)-1-amino-3-(4-octylphenyl)cyclopentyl)ethylphosphonate (0.0787 g, 0.180 mmol, 48.4% yield) as a white solid on drying under vacuum: LCMS (method a) Rt=3.46 min.; MS m/z: 438.48 (M+H)+.

reactant | Tert-butyl (1R,3S)-1-(2-(diethoxyphosphoryl)ethyl)-3-(4-octylphenyl)cyclopentylcarbamate | 0.372 mmol, 0.2 g | C(C)OP(=O)(OCC)CC[C@@]1(C[C@H](CC1)C1=CC=C(C=C1)CCCCCCCC)NC(OC(C)(C)C)=O | C30H52NO5P
reactant | TFA | 1.860 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | heptane | CCCCCCC | C7H16
solvent | dichloromethane | 1.860 ml | ClCCl | CH2Cl2
product | diethyl 2-((1R,3S)-1-amino-3-(4-octylphenyl)cyclopentyl)ethylphosphonate | 0.180 mmol, 0.0787 g, 48.4% yield | N[C@]1(C[C@H](CC1)C1=CC=C(C=C1)CCCCCCCC)CCP(OCC)(OCC)=O | C25H44NO3P
